US08710038B2
4-{(E)-2-[3-(3-Chlorophenyl)-1H-pyrazol-5-yl]ethenyl}phenol:
Hydrazine dihydro-chloride (0.263 g, 2.50 mmol) was added to a sealed tube charged with (2Z,4E)-1-(3-chlorophenyl)-3-hydroxy-5-(4-hydroxyphenyl)penta-2,4-dien-1-one (0.717 g, 2.39 mmol) in absolute ethanol (8 mL) and a catalytic amount of acetic acid. The reaction tube was sealed and heated to 80° C. After 12 hours the reaction was cooled to room temperature and concentrated in vacuo. The residue was dissolved in a small amount of methanol and precipitated with water, and the solid was collected by vacuum filtration to provide the title compound in (288 mg, 41% yield) as a yellow solid: 1H NMR (400 MHz, CD3OD): δ 7.79 (bs, 1H), 7.68 (bd, J=7.6 Hz, 1H), 7.37 (m, 3H), 7.29 (bd, J=7.6 Hz, 1H), 7.12 (d, J=16.4 Hz, 1H), 6.86 (d, J=16.4 Hz, 1H), 6.81 (bs, 1H), 6.77 (m, 2H); MS (EI) for C17H13 ClN2O: 297.1 (MH+).

reactant | Hydrazine dihydro-chloride | 2.50 mmol, 0.263 g | Cl.Cl.NN
reactant | (2Z,4E)-1-(3-chlorophenyl)-3-hydroxy-5-(4-hydroxyphenyl)penta-2,4-dien-1-one | 2.39 mmol, 0.717 g | ClC=1C=C(C=CC1)C(\C=C(\C=C\C1=CC=C(C=C1)O)/O)=O | C17H13ClO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 4-{(E)-2-[3-(3-Chlorophenyl)-1H-pyrazol-5-yl]ethenyl}phenol | 41% yield | ClC=1C=C(C=CC1)C1=NNC(=C1)/C=C/C1=CC=C(C=C1)O | C17H13ClN2O
